US20010006969A1
4-Allylamino-6-nitro-2-(2-propoxyethylamino)quinazoline
100 mg (0.38 mmol) of 4-allylamino-2-chloro-6-nitroquinazoline was dissolved in 1.5 ml of acetonitrile, and 124 mg (0.76 mmol) of 2-propoxyethylamine hydrochloride and 196 mg (1.94 mmol) of triethylamine were added thereto, followed by stirring at 80° C. for 15 hours. Water was added to the reaction solution, followed by extraction with ethyl acetate, washing brine and drying over anhydrous sodium sulfate. After the solvent was distilled off, the residue was purified by a silica gel column to give 91 mg (72.3%) of the title compound.

reactant | 4-allylamino-2-chloro-6-nitroquinazoline | 0.38 mmol, 100 mg | C(C=C)NC1=NC(=NC2=CC=C(C=C12)[N+](=O)[O-])Cl | C11H9ClN4O2
reactant | 2-propoxyethylamine hydrochloride | 0.76 mmol, 124 mg | Cl.C(CC)OCCN
reactant | triethylamine | 1.94 mmol, 196 mg | C(C)N(CC)CC | C6H15N
reactant | Water | O | H2O
solvent | acetonitrile | 1.5 ml | C(C)#N | C2H3N
product | 4-Allylamino-6-nitro-2-(2-propoxyethylamino)quinazoline | 91 mg, 72.3% | C(C=C)NC1=NC(=NC2=CC=C(C=C12)[N+](=O)[O-])NCCOCCC | C16H21N5O3
